US09101616B2
(1S*,2S*)-2-(4-(pyridin-2-ylmethoxy)phenyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyr idin-2-yl)ethyl)cyclopropanecarboxamide
A mixture of (1S*,2S*)-2-(4-hydroxyphenyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cyclopropanecarboxamide (15 mg, 0.039 mmol), 2-(Bromomethyl)pyridine hydrobromide (100 mg, 0.394 mmol) and potassium carbonate (27 mg, 0.197 mmol) in DMF (2 mL) was heated at 70 oC with stirring for 2 days. The mixture was poured into water, and the aqueous layer was extracted with ethyl acetate, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by preparative LC-MS to give 5 mg (27% yield) of the title compound.

reactant | (1S*,2S*)-2-(4-hydroxyphenyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cyclopropanecarboxamide | 0.039 mmol, 15 mg | OC1=CC=C(C=C1)[C@@H]1[C@H](C1)C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C19H19F3N2O3
reactant | 2-(Bromomethyl)pyridine hydrobromide | 0.394 mmol, 100 mg | Br.BrCC1=NC=CC=C1
reactant | potassium carbonate | 0.197 mmol, 27 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (1S*,2S*)-2-(4-(pyridin-2-ylmethoxy)phenyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyr idin-2-yl)ethyl)cyclopropanecarboxamide | 5 mg, 27% yield | N1=C(C=CC=C1)COC1=CC=C(C=C1)[C@@H]1[C@H](C1)C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C25H24F3N3O3
